US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(3-methoxypropyl)-2-oxo-2,3-dihydrobenzoxazol-5-ylmethoxy]piperidine-1-carboxylate
The solution of 0.206 g of tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-(3R,4R)-3-(2-oxo-2,3-dihydrobenzoxazol-5-ylmethoxy)piperidine-1-carboxylate in 2 ml of N,N-dimethylformamide is cooled to 0° C. with stirring and admixed with 12 mg of sodium hydride dispersion (60%). The mixture is stirred at 0° C. for 30 minutes and subsequently admixed with 0.048 ml of 1-chloro-3-methoxypropane and 5 mg of sodium iodide. The reaction mixture is stirred at 80° C. for 14 hours, cooled and poured onto water (40 ml). The mixture is extracted with ethyl acetate (2×40 ml). The organic phases are washed successively with water (2×40 ml) and brine (1×40 ml), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained from the residue as a slightly yellowish oil by means of flash chromatography (SiO2 60F). Rf=0.25 (2:1 toluene-EtOAc); Rt=6.03.

reactant | tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-(3R,4R)-3-(2-oxo-2,3-dihydrobenzoxazol-5-ylmethoxy)piperidine-1-carboxylate | 0.206 g | COC1=C(COCCCOC2=CC=C(C=C2)[C@@H]2[C@H](CN(CC2)C(=O)OC(C)(C)C)OCC=2C=CC3=C(NC(O3)=O)C2)C=CC=C1 | C35H42N2O8
reactant | sodium hydride | 12 mg | [H-].[Na+]
reactant | 1-chloro-3-methoxypropane | 0.048 ml | ClCCCOC | C4H9ClO
reactant | sodium iodide | 5 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(3-methoxypropyl)-2-oxo-2,3-dihydrobenzoxazol-5-ylmethoxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC=2C=CC3=C(N(C(O3)=O)CCCOC)C2)C=CC=C1 | C39H50N2O9
